US05433896
Preparation of 2-(tert-butylcarbonyl)acetophenone
The desired product is prepared as described in Example 1 using 2-hydroxyacetophenone (19.0 g, 140 mmol) and trimethylacetic hydrazide (10 g, 96 mmol). Yield: 5.0 g, 84%. m.p. 43°-45° C. 1H NMR (CDCl3), δ=1.25 (s, 9H, 3×CH3); 2.58 (s, 3H, CH3); 7.21 (d, 1H, ArH); 7.45-7.49 (m, 1H, ArH); 7.55-7.59 (m, 1H, ArH); 7.89 (d, 1H, ArH).

reactant | 2-hydroxyacetophenone | 140 mmol, 19.0 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | trimethylacetic hydrazide | 96 mmol, 10 g | CC(C(=O)NN)(C)C | C5H12N2O
product | 2-(tert-butylcarbonyl)acetophenone | C(C)(C)(C)C(=O)CC(=O)C1=CC=CC=C1 | C13H16O2
